US09056112B2
Linagliptin-(D)-tartrate (8 gm) and water (100 mL) were charged into 1000 mL round bottomed flask and stirred for 30 minutes at 26° C. Dichloromethane (80 mL) was added to the solution and cooled to 5° C. Aqueous sodium hydroxide solution (0.6 gm of NaOH is added to 20 mL of water) was added to the mixture at 5° C. and maintained for 1 hour. Layers were separated and aqueous layer was extracted with dichloromethane (20 mL). Combined both organic layers and dried over sodium sulphate and distilled off the organic layer under vacuum at 45° C. Hexane (20 mL) was added to the crude and stirred for 1 hour at 26° C. The precipitate was filtered and washed with 4 mL of hexane and dried the compound at 60° C. under vacuum to give 6 gm of pure Linagliptin. PXRD pattern: FIG. 2, Chemical Purity: 99.67%, Chiral purity: 99.85%, (S)-isomer content: 0.15%, Regio impurity: 0.09%, Bromo impurity: 0.07%.

reactant | Linagliptin (D)-tartrate | 8 gm | CC#CCN1C2=C(N=C1N3CCC[C@H](C3)N)N(C(=O)N(C2=O)CC=4N=C(C=5C=CC=CC5N4)C)C.C(=O)([O-])[C@@H](O)[C@H](O)C(=O)[O-]
reactant | water | 100 mL | O | H2O
reactant | sodium hydroxide | 20 mL, 0.6 gm | [OH-].[Na+]
solvent | Dichloromethane | 80 mL | ClCCl | CH2Cl2
product | Linagliptin | 6 gm | CC#CCN1C2=C(N=C1N3CCC[C@H](C3)N)N(C(=O)N(C2=O)CC=4N=C(C=5C=CC=CC5N4)C)C | C25H28N8O2
